US06441052B1
4-Cyclopentylpentan-1-ol (4.0 g; 23 mmol) was esterified with propionyl chloride (3.1 g; 34 mmol) according to example 3 to give 4.4 g (84.5% yield) of 4-cyclopentylpent-1-yl propanoate.

reactant | 4-Cyclopentylpentan-1-ol | 23 mmol, 4.0 g | C1(CCCC1)C(CCCO)C | C10H20O
reactant | propionyl chloride | 34 mmol, 3.1 g | C(CC)(=O)Cl | C3H5ClO
product | 4-cyclopentylpent-1-yl propanoate | 4.4 g, 84.5% yield | C(CC)(=O)OCCCC(C)C1CCCC1 | C13H24O2
